US08097610B2
To 6-chloro-2-[4-(2-hydroxyethyl)piperidine-1-yl]benzothiazole (1.20 g; 4.03 mmol) was added thionyl chloride (10 ml). The mixture was stirred at 60° C. for 1 hour. The reaction solution was poured into ice water. 5N aqueous sodium hydroxide was added thereto to neutralize and the precipitate was collected. The precipitate was washed with diisopropyl ether to give 6-chloro-2-[4-(2-chloroethyl)piperidine-1-yl]benzothiazole as colorless crystal (0.98 g; 77%).

reactant | 6-chloro-2-[4-(2-hydroxyethyl)piperidine-1-yl]benzothiazole | 4.03 mmol, 1.20 g | ClC1=CC2=C(N=C(S2)N2CCC(CC2)CCO)C=C1 | C14H17ClN2OS
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 6-chloro-2-[4-(2-chloroethyl)piperidine-1-yl]benzothiazole | ClC1=CC2=C(N=C(S2)N2CCC(CC2)CCCl)C=C1 | C14H16Cl2N2S
